US04678801
7a-(2-oxo-1-pyrrolidineacetamidomethyl)pyrrolizidine
A mixture consisting of 14.1 g (89.6 mmol) of methyl 2-oxo-1-pyrrolidineacetate and 11.4 g (81.4 mmol) of 7a-(aminomethyl)pyrrolizidine was heated and stirred for 6 hours at 80° C. under argon atmospher. After cooling, the reaction mixture was then solved with 1.0N-hydrochloric acid and extracted 3 times with dichloromethane. An aqueous layer was rendered alkaline by the addition of sodium hydroxide solution and extracted 3 times with dichloromethane followed by drying over anhydrous magnesium sulfate. After removal of the drying agent through filtration, the solvent was evaporated under reduced pressure to obtain a yellowish oil as a free base of the desired compound. The free base was converted to terephthalate by usual manner. Yield: 32.0 g (91.1%).

reactant | methyl 2-oxo-1-pyrrolidineacetate | 89.6 mmol, 14.1 g | O=C1N(CCC1)CC(=O)OC | C7H11NO3
reactant | 7a-(aminomethyl)pyrrolizidine | 81.4 mmol, 11.4 g | NCC12CCCN2CCC1 | C8H16N2
reactant | hydrochloric acid | Cl | ClH
product | 7a-(2-oxo-1-pyrrolidineacetamidomethyl)pyrrolizidine | O=C1N(CCC1)CC(=O)NCC12CCCN2CCC1 | C14H23N3O2
